US08404896B2
To a solution of 2-(3-fluoro-5-(trifluoromethyl)phenyl)-2-(5-fluoropyridin-2-yl)-3-phenylpropanenitrile (1.6 g, 4.12 mmol), prepared as described in Procedure 4, in CH3OH (40 mL) was added CoCl2.6H2O (1.07 g, 8.25 mmol). The resulting solution turned purple in color. NaBH4 (1.57 g, 41.2 mmol) was then added in portions over 10 min. The resulting black solution was stirred at rt for 1 h. After this time, the reaction mixture was concentrated under reduced pressure, quenched with 6N HCl (4 mL), and diluted with sat. ammonium chloride (40 mL). The aqueous phase was extracted with CH2Cl2 (4×50 mL). The combined organic portions were washed successively with sat. NaHCO3 (50 mL) and sat. NaCl (50 mL), then dried over anhydrous Na2SO4, filtered and concentrated under reduced pressure to yield a yellow oil. The yellow oil was dissolved in CH2Cl2 and loaded directly onto a silica gel ISCO cartridge (40 g) with elution at 35 mL/min gradient 0 to 5% CH3OH in CH2Cl2 over 22 min (RT=17-19 min). 2-(3-Fluoro-5-(trifluoromethyl)phenyl)-2-(5-fluoropyridin-2-yl)-3-phenylpropan-1-amine (1.0 g, 60% yield) was isolated as a pale yellow oil. LCMS: RT=1.68 min [M+H] 393.04 (2 min Phenomenex Luna C18 column, 4.6×30 mm eluting with 10-90% MeOH/H2O over 2 minutes containing 0.1% TFA; 5 mL/min, monitoring at 220 nm); HPLC: RT=3.31 min (Phenomenex Luna C18 column, 4.6×50 mm eluting with 10-90% MeOH/H2O over 4 minutes containing 0.2% PPA; 4 mL/min, monitoring at 220 nm); NMR: 400 MHz 1H (CDCl3) ppm 3.29-3.37 (m, 2 H), 3.59 (t, J=13.2 Hz, 2 H), 6.62 (d, J=7.0 Hz, 2H), 6.97 (d, J=10.1 Hz, 1 H), 7.06-7.14 (m, 5 H), 7.20 (d, J=8.35 Hz, 1 H), 7.34 (td, J=8.57, 3.08 Hz, 1 H), 8.45 (d, J=3.08 Hz, 1 H). The racemate (1.0 g) was dissolved in CH3OH and resolved by chiral prep HPLC (Chiralpak AD 20μ column, 5×50 cm isocratic elution with 100% EtOH/CH3OH(50/50)/0.1% DEA, 50 mL/min, monitoring at 254 nm). Enantiomer 1 (470 mg) was isolated as a yellow oil: analytical chiral HPLC (Diacel Chiralpak AD 10μ column, 4.6×250 mm isocratic elution with 100% EtOH/CH3OH(50/50)/0.1% DEA, 1 mL/min, monitoring at 254 nm), RT=3.70 min. Enantiomer 2 (470 mg) was isolated as a yellow oil: analytical chiral HPLC (Diacel Chiralpak AD 10μ column, 4.6×250 mm isocratic elution with 100% EtOH/CH3OH(50/50)/0.1% DEA, 1 mL/min, monitoring at 254 nm), RT=4.05 min.

reactant | 2-(3-fluoro-5-(trifluoromethyl)phenyl)-2-(5-fluoropyridin-2-yl)-3-phenylpropanenitrile | 4.12 mmol, 1.6 g | FC=1C=C(C=C(C1)C(F)(F)F)C(C#N)(CC1=CC=CC=C1)C1=NC=C(C=C1)F | C21H13F5N2
reactant | NaBH4 | 41.2 mmol, 1.57 g | [BH4-].[Na+]
solvent | CH3OH | 40 mL | CO | CH4O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 2-(3-Fluoro-5-(trifluoromethyl)phenyl)-2-(5-fluoropyridin-2-yl)-3-phenylpropan-1-amine | 1.0 g, 60% yield | FC=1C=C(C=C(C1)C(F)(F)F)C(CN)(CC1=CC=CC=C1)C1=NC=C(C=C1)F | C21H17F5N2
